US05885986
0.23 g (0.00062 mol) of (S)-1-(5-propylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 15 ml of ethanol was treated with 0.18 ml (0.00065 mol) of 3.7N ethanolic hydrochloric acid. The yellow solution was concentrated to 5 ml and treated with 15 ml of ethyl acetate. After stirring at 0° for 1/2 hr. the suspension was suction filtered. There was obtained 0.19 g (76%) of (S)-1-(5-propylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one hydrochloride (1:1) as white crystals; m.p. 218°-220° (dec.) and [α]D20 =-285.3° (H2O, c=3%).

reactant | (S)-1-(5-propylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 0.00062 mol, 0.23 g | C(CC)NCC1=CN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C18H19N5O2S
reactant | hydrochloric acid | 0.00065 mol, 3.7N, 0.18 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (S)-1-(5-propylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one hydrochloride | 0.19 g, 76% | Cl.C(CC)NCC1=CN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | InChI=1S/C18H19N5O2S.ClH/c1-2-5-19-8-11-9-20-17(25-11)14-15-12-3-6-22(12)18(24)16-13(4-7-26-16)23(15)10-21-14;/h4,7,9-10,12,19H,2-3,5-6,8H2,1H3;1H/t12-;/m0./s1
